US07220773B2
To a solution of (4-methylphenyl)(1-allyl-1H-pyrrol-1-yl)methanone (47.31 g, 210 mmol) in dimethylformamide (650 ml) were added 4-[(2S)-2-(3-iodophenoxy)propanoyl]morpholine (72.24 g, 200 mmol), sodium hydrogencarbonate (33.60 g, 400 mmol), benzyltriethylammonium chloride (45.56 g, 200 mmol) and palladium acetate (2.245 g, 10.0 mmol), and the mixture was stirred for 6 hours at 50–55° C. After the mixture was allowed to cool to room temperature, thereto was added water (1 L) and the mixture was extracted with toluene/ethyl acetate (1/2) twice (1 L and 0.5 L). The organic layer was washed with an aqueous 10% potassium hydrogensulfate solution three times and then water and an aqueous saturated sodium chloride solution. The organic layer was dried over magnesium sulfate. After addition of charcoal, the organic layer was filtered with Celite. The solvent was removed under reduced pressure to give {1-[(2E)-3-(3-{[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethyl]oxy}phenyl)prop-2-enyl]-1H-pyrrol-2-yl}(4-methylphenyl)methanone (about 10 g). To a solution of {1-[(2E)-3-(3-{[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethyl]oxy}phenyl)prop-2-enyl]-1H-pyrrol-2-yl}(4-methylphenyl)methanone (about 100 g) in tetrahydrofuran (350 ml) and methanol (350 ml) was added an aqueous 2N lithium hydroxide solution (500 ml) and the mixture was stirred for 5 hours at 70° C. The reaction mixture was concentrated, followed by addition of water. The mixture was acidified (pH 2–3) with 1N hydrochloric acid. The solution was extracted with toluene/ethyl acetate (1/2)(1 L×2) and dried over anhydrous magnesium sulfate. The solvent was removed and the residue was dried to give (2S)-2-(3-{(1E)-3-[2-(4-methylbenzoyl)-1H-pyrrol-1-yl]prop-1-enyl}phenoxy)propionic acid (about 90 g).

reactant | {1-[(2E)-3-(3-{[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethyl]oxy}phenyl)prop-2-enyl]-1H-pyrrol-2-yl}(4-methylphenyl)methanone | about 100 g | C[C@@H](C(=O)N1CCOCC1)OC=1C=C(C=CC1)/C=C/CN1C(=CC=C1)C(=O)C1=CC=C(C=C1)C | C28H30N2O4
reactant | lithium hydroxide | 2N, 500 ml | [OH-].[Li+]
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | methanol | 350 ml | CO | CH4O
product | (2S)-2-(3-{(1E)-3-[2-(4-methylbenzoyl)-1H-pyrrol-1-yl]prop-1-enyl}phenoxy)propionic acid | about 90 g | CC1=CC=C(C(=O)C=2N(C=CC2)C/C=C/C=2C=C(O[C@H](C(=O)O)C)C=CC2)C=C1 | C24H23NO4
